US04518597
5,7-Dimethyl-6-[4-(4-methyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 5,7-dimethyl-6-hydroxy-4H-3,1-benzoxazin-2-one and 4-(4-methyl-phenylmercapto)-butylchloride.

reactant | 5,7-dimethyl-6-hydroxy-4H-3,1-benzoxazin-2-one | CC1=C(C(=CC2=C1COC(N2)=O)C)O | C10H11NO3
reactant | 4-(4-methyl-phenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 5,7-Dimethyl-6-[4-(4-methyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one | CC1=C(C(=CC2=C1COC(N2)=O)C)OCCCCSC2=CC=C(C=C2)C | C21H25NO3S
